US04218477
A. 2-bromo-2',6'-diethylpropionanilide.
Following the procedure described in Example 8A using 2,6-diethylaniline and 2-bromopropionyl bromide the desired intermediate was obtained in 80% yield. Recrystallized from abs. methanol it melted at 197°-199° C. Calcd.: C 54.9, H 6.38, N 4.93, Br 28.1. Found: C 54.8, H 6.19, N 5.02, Br 27.9.

reactant | 2,6-diethylaniline | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | 2-bromopropionyl bromide | BrC(C(=O)Br)C | C3H4Br2O
product | 2-bromo-2',6'-diethylpropionanilide | 80% yield | BrC(C(=O)NC1=C(C=CC=C1CC)CC)C | C13H18BrNO
